US07612067B2
Preparation of 8-(1-ethyl-propyl)-2,6-dimethyl-3-[3-methyl-5-(6-trifluoromethyl-pyridin-2-yl)-thiophen-2-yl]-imidazo[1,2-b]pyridazine
Using a procedure similar to Example 25, 2-chloro-6-trifluoromethyl-pyridine (0.29 mL, 1.22 mmol), 1.34 M n-Bu-Li (0.80 mL, 1.07 mmol), ZnCl2 (2.14 mL, 1.07 mmol), 3-(5-bromo-3-methyl-thiophen-2-yl)-8-(1-ethyl-propyl)-2,6-dimethyl-imidazo[1,2-b]pyridazine (0.40 g, 1.02 mmol) and PdCl2(dppf) (0.037 g, 0.051 mmol) furnish the title compound (0.20 g, 0.44 mmol, 43%). 1H NMR (CDCl3), δ 0.90 (t, J=7.5 Hz, 6H), 1.76-1.94 (m, 4H), 2.18 (s, 3H), 2.51 (s, 3H), 2.53 (s, 3H), 3.30-3.40 (m, 1H), 6.69 (s, 1H), 7.50 (dd, J=7.5, 0.9 Hz, 1H), 7.65 (s, 1H), 7.78 (d, J=7.9 Hz, 1H), 7.84 (dd, J=7.9, 7.5 Hz, 1H). LC/MS (m/z): calcd. for C24H25F3N4S (M+H)+: 459.3. found: 459.2.

reactant | 2-chloro-6-trifluoromethyl-pyridine | 1.22 mmol, 0.29 mL | ClC1=NC(=CC=C1)C(F)(F)F | C6H3ClF3N
reactant | n-Bu-Li | 1.07 mmol, 1.34 M, 0.80 mL | C(CCC)[Li]
reactant | 3-(5-bromo-3-methyl-thiophen-2-yl)-8-(1-ethyl-propyl)-2,6-dimethyl-imidazo[1,2-b]pyridazine | 1.02 mmol, 0.40 g | BrC1=CC(=C(S1)C1=C(N=C2N1N=C(C=C2C(CC)CC)C)C)C | C18H22BrN3S
catalyst | ZnCl2 | 1.07 mmol, 2.14 mL | [Cl-].[Cl-].[Zn+2]
catalyst | PdCl2(dppf) | 0.051 mmol, 0.037 g | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | 8-(1-ethyl-propyl)-2,6-dimethyl-3-[3-methyl-5-(6-trifluoromethyl-pyridin-2-yl)-thiophen-2-yl]-imidazo[1,2-b]pyridazine | 0.44 mmol, 0.20 g, 43% | C(C)C(CC)C=1C=2N(N=C(C1)C)C(=C(N2)C)C=2SC(=CC2C)C2=NC(=CC=C2)C(F)(F)F | C24H25F3N4S
